US06319702B1
According to example 54, 0.50 g of 3-tert-butyl-L-phenylalanine-HCl was treated with 30 mL of isobutylene in 25 mL of 1,4-dioxane in the presence of 0.4 mL of conc. H2SO4. Work-up in the usual manner followed by acidification of the free amine with ethereal HCl afforded 0.53 g (87%) of tert-butyl 3-tert-butyl-L-phenylalaninate.HCl as a light yellow foam.

reactant | 3-tert-butyl-L-phenylalanine-HCl | 0.50 g | Cl.C(C)(C)(C)C=1C=C(C[C@H](N)C(=O)O)C=CC1
reactant | isobutylene | 30 mL | CC(C)=C | C4H8
reactant | H2SO4 | 0.4 mL | OS(=O)(=O)O | H2O4S
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 3-tert-butyl-L-phenylalaninate | 0.53 g, 87% | C(C)(C)(C)C=1C=C(C[C@H](N)C(=O)OC(C)(C)C)C=CC1 | C17H27NO2
